US08431563B2
A 100 mL round-bottomed flask was charged with 2-(4-((2S)-2-((6-(benzyloxy)-3-oxa-8-azabicyclo[3.2.1]oct-8-yl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol (0.350 g, 0.537 mmol) and 5 mL of CH2Cl2. After cooling to 0° C., BCl3 (1M in CH2Cl2, 2.15 mL, 2.15 mmol, Sigma-Aldrich, St. Louis, Mo.) was added drop-wise. This mixture was allowed to warm to room temperature then stirred for an additional 15 min. 10 mL of MeOH was added and the mixture was concentrated onto silica gel and purified via column chromatography (0-7% MeOH in CH2Cl2) to give 8-(((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl)-3-oxa-8-azabicyclo[3.2.1]octan-6-ol (endo) (0.210 g) as a mixture of four isomers. 1H NMR (400 MHz, CD3OD) δ 7.92 (d, J=4.9 Hz, 1H), 7.67 (d, J=3.5 Hz, 1H), 7.54 (t, J=7.2 Hz, 2H), 7.28 (t, J=5.3 Hz, 1H), 7.06 (t, J=9.1 Hz, 2H), 4.43-4.62 (m, 2H), 3.39-4.24 (m, 13H), 2.66-2.98 (m, 2H), 2.55 (d, J=3.91 Hz, 1H), 1.69 (br. s., 3H). m/z (ESI, +ve ion) 562.1 (M+H)+. GK-GKRP IC50 (Binding)=0.028 μM; GK-GKRP EC50 (LC MS/MS-2)=0.031 μM.

reactant | 2-(4-((2S)-2-((6-(benzyloxy)-3-oxa-8-azabicyclo[3.2.1]oct-8-yl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-1,1,1-trifluoro-2-propanol | 0.537 mmol, 0.350 g | C(C1=CC=CC=C1)OC1C2COCC(C1)N2C[C@@H]2N(CCN(C2)S(=O)(=O)C=2SC=CC2)C2=CC=C(C=C2)C(C(F)(F)F)(C)O | C31H36F3N3O5S2
reactant | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
reactant | BCl3 | 2.15 mmol, 1M, 2.15 mL | B(Cl)(Cl)Cl | BCl3
solvent | MeOH | 10 mL | CO | CH4O
product | 8-(((2S)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl)-3-oxa-8-azabicyclo[3.2.1]octan-6-ol | 0.210 g | S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O)CN1C2COCC1C(C2)O | C24H30F3N3O5S2
